US07135582B2
4-Bromo-2,6-di-tert-butylanisole
Under argon atmosphere, to a solution of 4-bromo-2,6-di-tert-butylphenol (50 g, 0.175 mol) and potassium carbonate (96.7 g, 4.0 equivalents) in acetone (750 mL) was added dimethyl sulfate (38.6 g, 1.75 equivalents) at 22° C. The mixture was stirred under reflux for 13 hours. Insoluble substances were filtered off and the solvent was distilled off under reduced pressure. By adding ethyl acetate (150 mL) and water (100 mL) to the residue, the reaction mixture was allowed to separate into layers. An organic layer was washed successively with water (100 mL), a 5% NaHCO3 aqueous solution (100 mL) and a 5% NaCl aqueous solution (100 mL), dried over anhydrous magnesium sulfate and then naturally filtered. The filtrate was concentrated under reduced pressure to obtain the title compound (56.1 g, brown oil). Yield 95.2%.

reactant | 4-bromo-2,6-di-tert-butylphenol | 0.175 mol, 50 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | potassium carbonate | 96.7 g, 4.0 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 38.6 g, 1.75 equivalents | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 750 mL | CC(=O)C | C3H6O
product | 4-Bromo-2,6-di-tert-butylanisole | 56.1 g, Yield 95.2% | BrC1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C | C15H23BrO
